US06794402B2
The free base of 6-{trans-4-[3-(4-fluorophenyl)propylamino]cyclohexyl}-3H-benzoxazol-2-one (400 mg, 0.99 mmol) was made by the addition of 1N NaOH (0.99 mL, 0.99 mmol) to 6-{trans-4-[3-(4-fluorophenyl)propylamino]-cyclohexyl}-3H-benzoxazol-2-one hydrochloride in THF (25 mL) and MeOH (10 mL). Cyclopropanecarboxaldehyde (70 mg, 0.99 mmol) was added, followed by NaBH(OAc)3 (300 mg, 1.4 mmol). Additional NaBH(OAc)3 and cyclopropanecarboxaldehyde were added at intervals, over 28 hours, to drive the reaction to completion. The solution was brought to pH=11 with solid NaOH and then concentrated under reduced pressure. Purification by flash chromatography (silica, 90:9.5:0.5 CH2Cl2:MeOH:NH4OH) followed by formation of the HCl salt gave 6-(trans-4-{cyclopropylmethyl-[3-(4-fluorophenyl)propyl]amino}-cyclohexyl)-3H-benzoxazol-2-one (347 mg, 76%), as a white solid: mp 221-225° C.; IR (KBr): 2937, 1764, 1510 cm−1; 1H NMR (500 MHz, DMSO-d6): δ 11.50 (s, 1H), 9.78 (br s, 1H), 7.33-7.29 (m, 2H), 7.18-7.12 (m, 3H), 7.02 (s, 2H), 3.50-3.42 (m, 1H), 3.24-2.97 (m, 4H), 2.72-2.61 (m, 2H), 2.59-2.55 (m, 1H), 2.18-2.01 (m, 4H), 1.94-1.88 (m, 2H), 1.69-1.53 (m, 4H), 1.18-1.09 (m, 1H), 0.68-0.59 (m, 2H), 0.46-0.36 (m, 2H); ESI-MS (m/z): 423 [M+H]+; HPLC: method A, 6.22 minutes (98.5%); Anal. Calcd for C26H31FN2O2.HCl: C, 68.04; H, 7.03; N, 6.10. Found: C, 67.65; H, 7.07; N, 5.95.

reactant | 6-{trans-4-[3-(4-fluorophenyl)propylamino]cyclohexyl}-3H-benzoxazol-2-one | 0.99 mmol, 400 mg | FC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1 | C22H25FN2O2
reactant | NaOH | 0.99 mmol, 1N, 0.99 mL | [OH-].[Na+]
reactant | 6-{trans-4-[3-(4-fluorophenyl)propylamino]-cyclohexyl}-3H-benzoxazol-2-one hydrochloride | Cl.FC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1
reactant | Cyclopropanecarboxaldehyde | 0.99 mmol, 70 mg | C1(CC1)C=O | C4H6O
reactant | NaBH(OAc)3 | 1.4 mmol, 300 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(trans-4-{cyclopropylmethyl-[3-(4-fluorophenyl)propyl]amino}-cyclohexyl)-3H-benzoxazol-2-one | 347 mg, 76% | C1(CC1)CN([C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1)CCCC1=CC=C(C=C1)F | C26H31FN2O2
